US07173023B2
In a dried flask under an inert atmosphere, 103 mg (0.36 mmol) of 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one and 72 mg (0.9 mmol) of sodium acetate were suspended in 0.3 ml of acetic acid anhydride. The solution was heated to 140° C. for 4 h. For the working-up, the reaction mixture was cooled, then evaporated under reduced pressure. The residue was treated with 1.5 ml of ice/water and 4 ml of ethyl acetate. The aqueous layer was separated and re-extracted with 4 ml of ethyl acetate. The combined organic layers were dried over sodium sulfate, thereafter the solvent evaporated under reduced pressure. For purification, the crude material obtained was chromatographed on silica gel using a gradient of heptane to a 4:1-mixture of heptane and ethyl acetate as the eluent. There were obtained 91 mg (77% of theory) of 3-acetyl-8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one as a light yellow solid; MS: m/e=325 (M)+.

reactant | 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one | 0.36 mmol, 103 mg | FC=1C=C(COC=2C=CC3=C(CC(NC=C3)=O)C2)C=CC1 | C17H14FNO2
reactant | sodium acetate | 0.9 mmol, 72 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one | 91 mg, 77% | C(C)(=O)N1C(CC2=C(C=C1)C=CC(=C2)OCC2=CC(=CC=C2)F)=O | C19H16FNO3
